US07098219B2
1-(2′,4′-Difluorophenyl)-6-fluoro-1,4-dihydro-7-(piperidin-4-yl-amino)-4-oxo-1,8-naphthyridine-3-carboxylic acid
Ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-naphthyridine-3-carboxylate (0.5 g, 1.3 mmole) and (3-N-ethoxycarbonyl)aminopyrrolidine (0.3 g, 1.74 mmole) in acetonitril (5 ml) was stirred at 80° C. for 3 hr and cooled. Solvent was concentrated to dryness and 5% aqueous NaOH (10 ml) was added to reaction mixture and stirred for 2 hr, acidified with conc. HCl solid separated was filtered, dried to furnish the required product. Yield 74%, m.p >320° C., C20H17F3N4O3, m/z 419. (M+1)

reactant | Ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-naphthyridine-3-carboxylate | 1.3 mmole, 0.5 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)F)F)=O)C(=O)OCC | C17H10F4N2O3
reactant | acetonitril | 5 ml | C(C)#N | C2H3N
product | 1-(2′,4′-Difluorophenyl)-6-fluoro-1,4-dihydro-7-(piperidin-4-yl-amino)-4-oxo-1,8-naphthyridine-3-carboxylic acid | Yield 74% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)NC1CCNCC1)F)=O)C(=O)O | C20H17F3N4O3
